US07737149B2
5-(3-diethylaminopyrrolidin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide
N,N-diethylpyrrolidin-3-amine (142 mg, 1.00 mmol) was added to 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide (136 mg, 0.35 mmol) in anhydrous dimethylsulfoxide (1.75 ml) at 25° C. The resulting solution was stirred at room temperature for 50 mins. The reaction mixture was diluted with methanol (5.00 ml) and the crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford impure product as a brown dry film. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (141 mg, 82%) as a white solid.

reactant | N,N-diethylpyrrolidin-3-amine | 1.00 mmol, 142 mg | C(C)N(C1CNCC1)CC | C8H18N2
reactant | 5-chloro-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 0.35 mmol, 136 mg | ClC=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC | C18H18ClN5O3
solvent | dimethylsulfoxide | 1.75 ml | CS(=O)C | C2H6OS
solvent | methanol | 5.00 ml | CO | CH4O
product | 5-(3-diethylaminopyrrolidin-1-yl)-N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]pyrazine-2-carboxamide | 141 mg, 82% | C(C)N(C1CN(CC1)C=1N=CC(=NC1)C(=O)NC=1NN=C(C1)CCC1=CC(=CC(=C1)OC)OC)CC | C26H35N7O3
